US08420816B2
tert-butyl 4-ethyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate
3-((1-(tert-Butoxycarbonyl)-4-ethylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid (50 mg, 0.124 mmol), HATU (94 mg, 0.248 mmol), and 4-dimethylaminopyridine (46 mg, 0.373 mmol) were stirred in DMF (3 mL) at room temperature for 1 h. The solution was concentrated in vacuo to give the title compound which was used without further purification.

reactant | 3-((1-(tert-Butoxycarbonyl)-4-ethylpiperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | 0.124 mmol, 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC)NCC1=CNC=2N=CC=C(C21)C(=O)O | C21H30N4O4
reactant | HATU | 0.248 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | 4-dimethylaminopyridine | 0.373 mmol, 46 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-ethyl-4-(5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)piperidine-1-carboxylate | C(C)C1(CCN(CC1)C(=O)OC(C)(C)C)N1C(C=2C=CN=C3C2C(C1)=CN3)=O | C21H28N4O3
